US07030118B2
F) (±)-3-Benzyl-7-chloro-2-(chloro-cyclopropyl-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
To a stirred solution of 3-benzyl-7-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (1.40 g, 4.24 mmol) and pyridine (1.5 mL, 18.5 mmol) in CH2Cl2 (20 mL) was added thionyl chloride (2 M, 4.5 mL, 9.0 mmol) at 0° C. under nitrogen and stirred for 20 min. The reaction mixture was then stirred at rt overnight, poured into ice water, and extracted with CH2Cl2 (3×40 mL). The organic layers were washed with brine and dried over MgSO4. Concentration and purification of the crude product by flash column chromatography (SiO2, EtOAc/hexane 1:9) gave the title compound as a white solid (0.96 g, 65%): 1H NMR (CDCl3) δ 7.22 (m, 3H), 7.04 (m, 3H), 6.48 (d, 1H, J=4.4 Hz), 6.05 (d, 1H, J=16.5 Hz), 4.68 (d, 1H, J=16.5 Hz), 3.81 (d, 1H, J=10.45 Hz), 1.96 (m, 1H), 1.19 (m, 1H), 0.72 (m, 1H), 0.57 (m, 1H), 0.22 (m, 1H), −0.35 (m, 1H); 3C NMR (CDCl3) δ 154.2, 148.2, 136.4, 129.2, 128.0, 125.8, 118.0, 117.6, 110.6, 109.0, 62.5, 44.1, 15.3, 7.22, 6.19; MS (ESI+) 348.02 (M++H), 370.01 (M++Na).

reactant | 3-benzyl-7-chloro-2-(cyclopropyl-hydroxy-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 4.24 mmol, 1.40 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2Cl)C(O)C2CC2 | C17H16ClN3O2
reactant | pyridine | 18.5 mmol, 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 9.0 mmol, 2 M, 4.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-Benzyl-7-chloro-2-(chloro-cyclopropyl-methyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.96 g, 65% | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2Cl)C(C2CC2)Cl | C17H15Cl2N3O
